US07482354B2
Methyl 2-(4-methyl-piperazin-1-yl)-5-nitro-benzoate
A solution of methyl 2-fluoro-5-nitro-benzoate (3.487 g, 17.511 mmol) and N-methylpiperazine (3.855 mL, 3.508 g, 35.022 mmol) in 30 mL of anhydrous methanol was heated to reflux for 5 hours.

reactant | methyl 2-fluoro-5-nitro-benzoate | 17.511 mmol, 3.487 g | FC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6FNO4
reactant | N-methylpiperazine | 35.022 mmol, 3.855 mL, 3.508 g | CN1CCNCC1 | C5H12N2
solvent | methanol | 30 mL | CO | CH4O
product | Methyl 2-(4-methyl-piperazin-1-yl)-5-nitro-benzoate | CN1CCN(CC1)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C13H17N3O4
